US07626056B2
C-(4-Cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohexyl)methylamine
A cooled (0° C.) soution of 4-cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohex-3-enecarbonitrile (3.5 g, 12.4 mmol) in tetrahydrofuran (10 ml) was treated with borane tetrahydrofuran complex (1M in tetrahydrofuran, 62 ml) dropwise over 20 min. On complete addition the mixture was allowed to warm to ambient temperature and stirred for 4 hours. The solution was cooled to 0° C. and quenched by the slow addition onto cooled (0° C.) methanol (30 ml). On complete addition concentrated hydrochloric acid (3.5 ml) was added and the mixture was allowed to warm to ambient temperature and stirred for 1 hour. The solvent was evaporated and the residue azeotroped with toluene to give a white solid. The solid was dissolved in methanol:dichloromethane (1:1) and purified using an SCX cartridge. The product was washed with methanol then eluted with 2M ammonia in methanol and evaporated to give the desired product as a colourless oil (2.87 g, 81%). 1H NMR δ (ppm)(d6-DMSO): 3.21 (2H, s), 3.05-2.98 (3H, m), 2.62 (2H, s), 1.88-1.84 (2H, m), 1.80-1.74 (2H, m), 1.60-1.53 (2H, m), 1.28-1.22 (2H, m), 1.15 (2H, d, J=6.7 Hz), 1.10-1.02 (1H, m), 0.64-0.62 (3H, m), 0.43-0.36 (4H, m), 0.13-0.06 (2H, m).

reactant | 4-cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohex-3-enecarbonitrile | 12.4 mmol, 3.5 g | C1(CC1)CS(=O)(=O)C1=CCC(CC1)(C#N)CC1CC1 | C15H21NO2S
reactant | borane tetrahydrofuran | 1M, 62 ml | O1CCCC1.B
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | methanol dichloromethane | CO.ClCCl
product | C-(4-Cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohexyl)methylamine | 2.87 g, 81% | C1(CC1)CS(=O)(=O)C1CCC(CC1)(CC1CC1)CN | C15H27NO2S
